US06963007B2
In a glass reaction vessel, 10.6 grams (40 mmol) of 11-Bromoundecanoic acid was dissolved in 225 milliliters DMF and 26 grams (400 mmol) sodium azide was added. The resulting stirred mixture was heated to 80° C. for 16 h, and then the reaction mixture was worked up with ether and brine. The ether layer was dried (MgSO4), filtered, and concentrated to 9.5 grams of N3(CH2)10C(O)OH as a pale yellow oil which was used without purification. In a glass reaction vessel, the N3(CH2)10C(O)OH was dissolved in 120 milliliters benzene and 12.7 grams (100 mmol) oxalyl chloride was added. The reaction was allowed to stir for 20 h, at which time the volatiles were removed in vacuo. The resulting residue was dissolved in pentane and filtered in a nitrogen atmosphere to remove solids. Concentration of the filtrate afforded N3(CH2)10C(O)Cl as a clear, yellow oil.

reactant | 11-Bromoundecanoic acid | 40 mmol, 10.6 grams | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | sodium azide | 400 mmol, 26 grams | [N-]=[N+]=[N-].[Na+]
reactant | N3(CH2)10C(O)OH | N(=[N+]=[N-])CCCCCCCCCCC(=O)O | C11H21N3O2
reactant | oxalyl chloride | 100 mmol, 12.7 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 225 milliliters | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | benzene | 120 milliliters | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | N3(CH2)10C(O)Cl | N(=[N+]=[N-])CCCCCCCCCCC(=O)Cl | C11H20ClN3O
